US07468364B2
1-[3-Chloro-4-(2-hydroxyethyl)phenyl]ethanone
2-(4-Acetyl-2-chlorophenyl)ethyl acetate (4.87 g) was dissolved in methanol (80 ml), and thereto was added concentrated hydrochloric acid (20 ml), followed by refluxing. Four hours later the temperature of the reaction mixture was kept at room temperature, and methanol was removed in vacuo. Then the residue was diluted with ethyl acetate, washed with brine, dried and concentrated to give the object compound (4.42 g).

reactant | 2-(4-Acetyl-2-chlorophenyl)ethyl acetate | 4.87 g | C(C)(=O)OCCC1=C(C=C(C=C1)C(C)=O)Cl | C12H13ClO3
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
product | 1-[3-Chloro-4-(2-hydroxyethyl)phenyl]ethanone | 4.42 g | ClC=1C=C(C=CC1CCO)C(C)=O | C10H11ClO2
